US07119115B2
4.9 g of magnesium, 5 cm3 of 4-bromofluorobenzene and 25 cm3 of tetrahydrofuran are heated to a temperature in the region of 60° C. 17 cm3 of 4-bromofluorobenzene in solution in 25 cm3 of tetrahydrofuran are added and the mixture is heated at a temperature in the region of 60° C. for 2 hours. 5 cm3 of methyl methoxyacetate in solution in 25 cm3 of tetrahydrofuran are added to the solution prepared above, cooled to a temperature in the region of 0° C. After stirring for 24 hours at a temperature in the region of 20° C., the reaction mixture is poured into 200 cm3 of saturated aqueous ammonium chloride solution and extracted with three times 75 cm3 of ethyl acetate, and the organic phases are washed with twice 100 cm3 of distilled water, dried over magnesium sulphate and concentrated to dryness under reduced pressure. The residue obtained is purified by flash chromatography on silica gel (35–70 μm), eluting with pure dichloromethane; 9.8 g of 1,1-bis(4-fluorophenyl)-2-methoxyethanol are thus obtained in the form of a yellow oil, the characteristics of which are as follows:

reactant | magnesium | 4.9 g | [Mg] | Mg
reactant | 4-bromofluorobenzene | 5 cm3 | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 4-bromofluorobenzene | 17 cm3 | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | methyl methoxyacetate | 5 cm3 | COCC(=O)OC | C4H8O3
reactant | ammonium chloride | 200 cm3 | [Cl-].[NH4+]
solvent | tetrahydrofuran | 25 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 cm3 | O1CCCC1 | C4H8O
product | 1,1-bis(4-fluorophenyl)-2-methoxyethanol | 9.8 g | FC1=CC=C(C=C1)C(COC)(O)C1=CC=C(C=C1)F | C15H14F2O2
